US04026884
1,3-Diethyl-5{bis[(1,3-diethyl-1H-imidazo[4,5-b]quinoxalin-2-(3H)-ylidene)methyl]methylene}-2-thiobarbituric acid.
A mixture of 1,3-diethyl-2-[(1,3-diethyl-1H-imidazo[4,5-b]quinoxalin-2-(3H)-ylidene)-1-propynyl]imidazo[4,5-b]quinoxalinium perchlorate) 0.33 g, 0.0005 mol) of Example 1, 1,3-diethyl-2-thiobarbituric acid (0.11 g, 0.0005 mol) and triethylamine (0.10 g, 0.001 mol) in dimethylformamide (5 ml), is heated at reflux for 30 seconds. After cooling the solution is diluted to 20 ml. with water. The dye is collected and washed with water. After recrystallization from acetonitrile, the yield of purified dye is 0.27 g (79%) - mp. indistinct.

reactant | 1,3-diethyl-2-[(1,3-diethyl-1H-imidazo[4,5-b]quinoxalin-2-(3H)-ylidene)-1-propynyl]imidazo[4,5-b]quinoxalinium perchlorate | Cl(=O)(=O)(=O)[O-].C(C)[N+]1=C(N(C=2C1=NC1=CC=CC=C1N2)CC)C#CC=C2N(C=1C(=NC3=CC=CC=C3N1)N2CC)CC
reactant | 1,3-diethyl-2-thiobarbituric acid | 0.0005 mol, 0.11 g | C(C)N1C(=S)N(C(=O)CC1=O)CC | C8H12N2O2S
reactant | triethylamine | 0.001 mol, 0.10 g | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 1,3-Diethyl-5{bis[(1,3-diethyl-1H-imidazo[4,5-b]quinoxalin-2-(3H)-ylidene)methyl]methylene}-2-thiobarbituric acid | C(C)N1C(=S)N(C(=O)C(C1=O)=C(C=C1N(C=2C(=NC3=CC=CC=C3N2)N1CC)CC)C=C1N(C=2C(=NC3=CC=CC=C3N2)N1CC)CC)CC | C37H40N10O2S
